US06515011B2
DIEA (0.196 mL, 1.12 mmol) was added to a stirred mixture of 3,3-difluoroazetidine hydrochloride (64.8 mg, 0.50 mmol) and 2-bromomethyl-5-chlorobenzonitrile (121.0 mg, 0.52 mmol) in CH2Cl2 (7 mL). After 16 h the reaction was partitioned between EtOAc and water. The organic layer was washed with water and brine, dried (Na2SO4) and evaporated. The residue was partitioned between 1N HCl and ether. The aqueous layer was made neutral with NaHCO3 and was extracted with CH2Cl2. The organic layer was dried with Na2SO4 and then evaporated to give 5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzonitrile (67.8 mg) as a glass: 1H NMR (CDCl3, 400 MHz) δ 3.68 (t, J=11.9 Hz. 4H), 3.93 (s, 2H), 7.54 (m, 2H), 7.63 (d, J=2.2 Hz, 1H).

reactant | DIEA | 1.12 mmol, 0.196 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,3-difluoroazetidine hydrochloride | 0.50 mmol, 64.8 mg | Cl.FC1(CNC1)F
reactant | 2-bromomethyl-5-chlorobenzonitrile | 0.52 mmol, 121.0 mg | BrCC1=C(C#N)C=C(C=C1)Cl | C8H5BrClN
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzonitrile | 67.8 mg | ClC=1C=CC(=C(C#N)C1)CN1CC(C1)(F)F | C11H9ClF2N2
